US09024032B2
To a solution of 4.8 g (17.4 mmol) 1-biphenyl-3-yl-5-hydroxy-2-methylpyridin-4(1H)-one in 150 ml of DMF was added 4.1 g (26.1 mmol) PMBCl, and 12.0 g (87.0 mmol) K2CO3. The reaction was stirred at rt for 2 h, after which time water was added and a precipitate formed. The solid was collected by filtration and purified by flash chromatography (100 g silica gel, 0-20% MeOH:EtOAc) to afford 1-biphenyl-3-yl-5-[(4-methoxybenzyl)oxy]-2-methylpyridin-4(1H)-one. 1H NMR δ (ppm) (DMSO-d6): 7.84 (1 H, d, J=7.86 Hz), 7.77 (2 H, d, J=7.71 Hz), 7.73 (1 H, s), 7.64 (1 H, t, J=7.84 Hz), 7.53-7.47 (3 H, m), 7.46-7.39 (2 H, m), 7.38-7.30 (3 H, m), 6.93 (2 H, d, J=8.32 Hz), 6.23 (1 H, s), 4.89 (2 H, s), 3.77-3.70 (3 H, m), 2.03 (3 H, s). LCMS (M+H)+=398.3.

reactant | 1-biphenyl-3-yl-5-hydroxy-2-methylpyridin-4(1H)-one | 17.4 mmol, 4.8 g | C1(=CC(=CC=C1)N1C(=CC(C(=C1)O)=O)C)C1=CC=CC=C1 | C18H15NO2
reactant | PMBCl | 26.1 mmol, 4.1 g | COC1=CC=C(C=C1)CCl | C8H9ClO
reactant | K2CO3 | 87.0 mmol, 12.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 1-biphenyl-3-yl-5-[(4-methoxybenzyl)oxy]-2-methylpyridin-4(1H)-one | C1(=CC(=CC=C1)N1C(=CC(C(=C1)OCC1=CC=C(C=C1)OC)=O)C)C1=CC=CC=C1 | C26H23NO3
